.title ldo_2_asap7_tb
* Testbench for ldo_2 (ASAP7). Corner is selected by the .lib section below;
* run all 12 corners with run_corners.sh (see README.md).
.include "circuit_asap7.cir"
* ldo_2 migrated from sky130 (1.8V) to ASAP7 (0.7V)
* Devices: ASAP7 BSIM-CMG (level=72), parameterized by NFIN and L (nm)
* Passives: sky130 MIM caps / poly resistor replaced by ideal C / R
* Vout = Vref (unity feedback), target Vref = 0.45V, Iload max 100mA

***************************************
* Circuit netlist
***************************************

.lib "../../asap7_pdk/models/ngspice/asap7_osdi_corners.lib" tt_nom

***************************************
* Circuit parameters
***************************************
.param L_NM0=21n N_NM0=30
.param L_NM1=21n N_NM1=21
.param L_NM2=21n N_NM2=50
.param L_NM3=21n N_NM3=252
.param L_NM4=21n N_NM4=N_NM3
.param L_NM6=21n N_NM6=25
.param L_NM7=21n N_NM7=31
.param L_NM8=21n N_NM8=57
.param L_NM9=21n N_NM9=N_NM8
.param L_NM10=21n N_NM10=104
.param L_PM0=21n N_PM0=36
.param L_PM1=21n N_PM1=10
.param L_PM2=21n N_PM2=29
.param L_PM3=21n N_PM3=26
.param L_PM4=21n N_PM4=13846
.param L_PM5=21n N_PM5=126
.param L_PM6=21n N_PM6=54
.param L_PM7=21n N_PM7=30
.param L_PM8=21n N_PM8=21
.param L_PM9=21n N_PM9=N_PM8
.param current_0_bias=1.707e-05
.param R_R0=345.1
.param C_C0=44.31
.param C_C1=2.427
.param C_C4=1.886
.param C_LOAD=871.7

.PARAM VDD_NOM = 0.7
.PARAM supply_voltage = 'VDD_NOM*vdd_scale'
.PARAM Vref = 0.45
.PARAM PARAM_ILOAD =100m

V1 vdd 0 'supply_voltage'
V2 vss 0 0

Vindc vref_in 0 'Vref'
Vin signal_in 0 dc 'Vref' ac 1 sin('Vref' 10m 500)

***************************************
* Testbenches
***************************************
*    ADM TB
x1 vss vdd vref_in vout1 vfb1 vinp1 Ib ldo_2_asap7
Ib vdd Ib DC='current_0_bias'
Lfb vinp1 vfb1 1T
Cfb vinp1 signal_in 1T
CL1 vout1 0 {C_LOAD*1p}
Iload1 vout1 0 'PARAM_ILOAD'

* PSRR   TB
VVDDApsrr vddpsrr 0 'supply_voltage' AC=1
Ib2 vdd Ib2 DC='current_0_bias'
CL2 ppsr1 0 {C_LOAD*1p}
x2 vss vddpsrr vref_in ppsr1 vfb2 vfb2 Ib2 ldo_2_asap7
Iload2 ppsr1 0 'PARAM_ILOAD'

* DC ALL  TB
VVDDdc VDDdc 0 'supply_voltage'
Ib3 vdd Ib3 DC='current_0_bias'
CL3 vout6 0 {C_LOAD*1p}
x3 vss vdddc vref_in vout6 vfb3 vfb3 Ib3 ldo_2_asap7
Iload3 vout6 0 'PARAM_ILOAD'

.nodeset v(vout1)=0.45 v(ppsr1)=0.45 v(vout6)=0.45

.control
pre_osdi ../../asap7_pdk/models/ngspice/bsimcmg_va.osdi
* save all voltage and current
save all
.options savecurrents
set filetype=ascii
set units=degrees

* DC sweep at maxload
alter Iload3 dc=100m
dc VVDDdc 0.3 0.9 0.01
plot  v(vout6)
wrdata ldo_2_asap7_Vdrop_maxload v(vout6)

* DC sweep at minload
alter Iload3 dc=1m
dc VVDDdc 0.3 0.9 0.01
plot  v(vout6)
wrdata ldo_2_asap7_Vdrop_minload v(vout6)

* LNR at maxload
alter Iload3 dc=100m
dc VVDDdc 0.63 0.77 0.005
meas dc maxval1 MAX V(vout6) from=0.63 to=0.77
meas dc minval1 MIN V(vout6) from=0.63 to=0.77
meas dc avgval1 AVG V(vout6) from=0.63 to=0.77
meas dc ppavl1  PP V(vout6) from=0.63 to=0.77
let LNR1 = ppavl1/avgval1/0.14
print LNR1
plot v(vout6)
wrdata ldo_2_asap7_LNR_maxload LNR1

* LNR at minload
alter Iload3 dc=1m
dc VVDDdc 0.63 0.77 0.005
meas dc maxval2 MAX V(vout6) from=0.63 to=0.77
meas dc minval2 MIN V(vout6) from=0.63 to=0.77
meas dc avgval2 AVG V(vout6) from=0.63 to=0.77
meas dc ppavl2  PP V(vout6) from=0.63 to=0.77
let LNR2 = ppavl2/avgval2/0.14
print LNR2
plot v(vout6)
wrdata ldo_2_asap7_LNR_minload LNR2

dc Iload3 1m 100m 1m
* LR meas
meas dc maxval MAX V(vout6) from=1m to=100m
meas dc minval MIN V(vout6) from=1m to=100m
meas dc avgval AVG V(vout6) from=1m to=100m
meas dc ppavl  PP V(vout6) from=1m to=100m
let LR = ppavl/avgval/99m
print LR

* Power meas at maxload
meas dc Ivdd1 FIND I(VVDDDC) AT=100m
let Power1 = -1*Ivdd1*0.7
print Power1

* Power meas at minload
meas dc Ivdd2 FIND I(VVDDDC) AT=1m
let Power2 = -1*Ivdd2*0.7
print Power2

*   Vout error meas at maxload
meas dc vout_x FIND V(vout6) AT=100m
let vos1 = vout_x-0.45
print vos1
let vout_max = vout_x
print vout_max

*   Vout error meas at minload
meas dc vout_y FIND V(vout6) AT=1m
let vos2 = vout_y-0.45
print vos2
plot v(vout6)
wrdata ldo_2_asap7_LR_Power_vos LR Power1 Power2 vos1 vos2

* Loop test at maxload
alter Iload1 dc=100m
alter Iload2 dc=100m
ac dec 10 0.1 1G
meas ac DCPSRp1 find vdb(ppsr1) at = 0.1
meas ac dcgain1 find vdb(vout1) at = 0.1
meas ac gain_bandwidth_product1 when vdb(vout1)=0
meas ac phase_margin1 find vp(vout1) when vdb(vout1)=0
plot vdb(vout1) vdb(ppsr1) vp(vout1)
wrdata ldo_2_asap7_PSRR_dcgain_maxload DCPSRp1 dcgain1
wrdata ldo_2_asap7_GBW_PM_maxload gain_bandwidth_product1 phase_margin1

* Loop test at minload
alter Iload1 dc=1m
alter Iload2 dc=1m
ac dec 10 0.1 1G
meas ac DCPSRp2 find vdb(ppsr1) at = 0.1
meas ac dcgain2 find vdb(vout1) at = 0.1
meas ac gain_bandwidth_product2 when vdb(vout1)=0
meas ac phase_margin2 find vp(vout1) when vdb(vout1)=0
plot vdb(vout1) vdb(ppsr1) vp(vout1)
wrdata ldo_2_asap7_PSRR_dcgain_minload DCPSRp2 dcgain2
wrdata ldo_2_asap7_GBW_PM_minload gain_bandwidth_product2 phase_margin2

* OP
op

.endc

.end
